US05998433
b) Synthesis of 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzyl alcohol
To a suspension of 19.040 g (61.953 mmol) of 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzoic acid in 100 ml of tetrahydrofuran, 74.3 ml (74.3 mmol) of 1.0 M borane in tetrahydrofuran was added dropwise under ice-cooling, followed by overnight stirring at room temperature. Dilute hydrochloric acid was added, followed by stirring at room temperature for 0.5 hours and 3 extractions with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The residue was dissolved in 50 ml of methanol; 15 ml of concentrated hydrochloric acid was added, followed by stirring at 70° C. for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to yield the desired product.

reactant | 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzoic acid | 61.953 mmol, 19.040 g | O1C=CC=2CN(CCC21)S(=O)(=O)C2=CC=C(C(=O)O)C=C2 | C14H13NO5S
reactant | borane | 74.3 mmol, 1.0 M, 74.3 ml | B | BH3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzyl alcohol | O1C=CC=2CN(CCC21)S(=O)(=O)C2=CC=C(CO)C=C2 | C14H15NO4S
